US07727979B2
2-guanidino-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid phenyl amide
Diisopropylethylamine (0.2 mmol) and, after 5 min, phenyl isocyanate (0.11 mmol) are added to a suspension of N-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine-2-yl)-guanidine dihydrochloride (0.1 mmol) in dimethylformamide (0.5 ml). The reaction mixture is stirred for another 3 hours at room temperature. Then saturated aqueous sodium carbonate solution is added and extraction is carried out with ethyl acetate. The pure title compound is obtained after drying of the combined organic phases over sodium sulphate and removal of the solvent in a vacuum.

reactant | Diisopropylethylamine | 0.2 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phenyl isocyanate | 0.11 mmol | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | N-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine-2-yl)-guanidine dihydrochloride | 0.1 mmol | Cl.Cl.N1=C(SC=2CNCCC21)NC(=N)N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 2-guanidino-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid phenyl amide | C1(=CC=CC=C1)NC(=O)N1CC2=C(CC1)N=C(S2)NC(=N)N | C14H16N6OS
